Name:  ___.            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfonamides / Toradol
 
Attending: ___
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
Upper endoscopy

 
History of Present Illness:
HPI: Pt is ___ yo m with CAD s/p MI, s/p CABG, s/p stents, HTN, 
DM, h/o GIB, p/w transferred from ___ with chest 
pain.
He has had chest pain since yesterday 3am, intermittent,lasts 
30min to 1 hour, sharp located in the middle of his chest 
radiated to left shoulder. nothing makes it worse or better. 
Occasionally radiating to his back. He woke up with this pain. 
He was feeling very tired and decided to drink some alcohol to 
help him feel better. + palpitations. No diaphoresis. He has not 
been taking plavix and aspirin over last 4 months after having 
GI bleeding complications. He reports about 6 transfusions since 
then. On arrival to OSH was intoxicated (ETOH 234) at ___ 
___, sent under ___. CE OSH Ck 50, Trop I 0.03.
.
Per his report, recently admittted to ___ for an MRSA 
pneumonia for which he has been receiving antibiotics until 1 
week ago. Givne this recent health problems, he has not been 
very active. HOwever, he reports that prior to that he could 
walk ___ bloocks, go up stairs 1 flight without any significant 
difficulties.
.
In the ED, VS T??, HR 63, Bp 110/75, RR 16. Sat s98% 2L. Pt c/o 
chest pain, which was relieved with morphine. EKG showed new TWI 
in V1 and V2. He had a CTA negative for PE or disection.
.
Pt currently feel ok although still chest disconfort ___. He 
was seen by ___ resident upon arrival to floor for chest pain. 
EKG with t wave pseudonormalization on v2. Discussed with cards 
- heparin, plavix started.

EKG:
1) ___. NSR, normal axes. t wave inversion v1. 
no st changes. RVH
2) ___ ED: NSR, HR 63, t wave inversion v2. and flatening t 
wave I, aVL compared to prior. R ventricular hypertrophy
3) ___: 7 am. NSR, HR 69. T normalized t wave on v2 with <1mm 
st elevation. ___

 
Past Medical History:
DM II
HTN
Diastolic dysfunction by ___ echo
Anti-K antibody (from multiple transfusions in past)
Depression / Anxiety
Subtotal gastrectomy at age of ___ for perforated ulcer
GIB in setting of stress ulcers s/p MVA
CAD: s/p MI ___
-CABG X 3: LIMA TO LAD, SVG TO DIAG, SVG TO RCA (___)
-STENT TO RCA
-PTCA OM1 (___)
-CATH ___: 100% RCA + 100% SVG TO RCA
-PTCA OF OM1 RESTENOSIS (___)
- last cath ___: 3VD, patent LIMA, occluded SVG-RCA and 
SVG-diag,
DES placed to LCX
-hypercholesterolemia
- s/p cholecystectomy
- hiatal hernia
 
Social History:
___
Family History:
adopted, not aware of his biological family history
 
Physical Exam:
Vitals: T 98.1 BP101/62 HR 68 RR 18 O2 96RA
Gen: non apparent distress
HEENT: dry oral mucose. oropharinx clear
Neck: no LAD, no JVD
Cardio: s1-s2 normal, RRR, soft systolic murmur RUSB
Resp: decreased bases. + crackles R base
Abd: BS+ , soft, non tender, non distended.
Ext: no edema
Rectal: guiac negative.
 
Pertinent Results:
___ 10:30PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-1000 KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-NEG
___ 10:30PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 10:30PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-POS 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 10:30PM URINE  HOURS-RANDOM
___ 01:07AM   PLT COUNT-155
___ 01:07AM   NEUTS-54.4 ___ MONOS-4.0 EOS-3.6 
BASOS-0.6
___ 01:07AM   WBC-4.0 RBC-4.93 HGB-12.0* HCT-37.1* MCV-75*# 
MCH-24.3*# MCHC-32.3 RDW-13.8
___ 01:07AM   ASA-NEG ETHANOL-83* ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 01:07AM   CK-MB-NotDone
___ 01:07AM   cTropnT-<0.01
___ 01:07AM   CK(CPK)-47
___ 01:07AM   estGFR-Using this
___ 01:07AM   GLUCOSE-233* UREA N-7 CREAT-0.7 SODIUM-133 
POTASSIUM-3.8 CHLORIDE-99 TOTAL CO2-26 ANION GAP-12
___ 09:30AM   CK-MB-NotDone cTropnT-<0.01
___ 09:30AM   CK(CPK)-60
___ 01:35PM   PTT-84.2*
___ 05:50PM   CK-MB-NotDone cTropnT-<0.01
___ 05:50PM   CK(CPK)-44
___ 09:21PM   PTT-61.6*

===
X ray 
IMPRESSION:
1. Right lower lobe opacity, favoring atelectasis, increased in 
conspicuity
when compared to prior radiographs dating back to ___. Given
the longstanding nature of this finding, a CT for further 
investigation may be
warranted, particularly to exclude the possibility of an 
endobronchial lesion.
2. Interval resolution of opacity in the left mid lung.
===
INDICATION: ___ man with chest pain. Rule out PE and 
dissection.
 
TECHNIQUE: CTA chest without and with IV contrast.
 
COMPARISONS: None.
 
CTA CHEST: There is mild cardiomegaly. There are atherosclerotic
calcifications of the coronary arteries. There is no evidence of 
aortic
dissection. There is normal filling of the pulmonary arterial 
vasculature
without evidence of pulmonary embolism. Evaluation of 
subsegmental branches
is limited due to patient motion.
 
There is no pericardial effusion. There is right lower lobe 
rounded
atelectasis with tethering of the pleura and proliferation of 
adjacent fat
suggesting chronicity. There is moderate centrilobular emphysema 
with upper
lobe predominance, more severe in the right lung. The esophagus 
is patulous.
There is a small axial hiatal hernia. Small mediastinal nodes do 
not meet
size criteria for pathologic enlargement. Non-contrast images 
through the
upper abdomen do not reveal any acute abnormalities. The patient 
is status
post cholecystectomy.
 
BONE WINDOWS: Patient is status post midline sternotomy. No 
suspicious lytic
or sclerotic lesions are identified.
 
IMPRESSION:
 1. No evidence of aortic dissection. No evidence of PE. 
Evaluation of
subsegmental branches is limited due to patient motion.
 2. Discoid opacity in the right lower lobe with pleural 
tethering, probably
representing rounded atelectasis. A followup chest CT in 6 
months is
recommended to assess stability.
 3. Moderate centrilobular emphysema with upper lobe 
predominance, more severe
in the right lung.
 ==
CATH
COMMENTS:     
1.  Selective coronary angiography of this right dominant system
revealed 2 vessel coronary artery disease.  The LMCA had no
angiographically apparent flow limiting epicardial coronary 
artery
disease.  The LAD had a 90% stenosis at the origin which was 
supplied by
the ___.  The ___ had a patent stent.  The RCA was totally 
occluded at
the origin with a distal segment which filled by collaterals.
2.  Arterial conduit angiography revealed an LIMA-LAD which was 
patent
with diffuse distal disease and a patent distal stent.  The 
SVG-RCA was
completely occluded.
3.  Resting hemodynamics revealed normal systemic arterial 
systolic and
diastolic blood pressures with SBP 132 mmHg and DBP 60 mmHg.
 
 
FINAL DIAGNOSIS:    
1. Two vessel coronary artery disease.
2. Normal systemic arterial systolic and diastolic blood 
pressures.
===
Upper endoscopy ___
Findings:
Esophagus:Normal esophagus.
Stomach:
Lumen:Evidence of a previous sub-total gastrectomy with 
gastrojejunal anastomosis was seen. Both limbs of the BII were 
explored without any pathology.  
Mucosa:Mild erythema of the mucosa was noted at the 
anastomosis. Cold forceps biopsies were performed for histology 
at the anastomosis. 
Impression:Previous sub-total gastrectomy of the stomach
Erythema at the anastomosis (biopsy)
Otherwise normal EGD to both limbs of gastrojejunostomy
Recommendations:Return to inpt ward
Follow-up biopsies
Additional notes:No source for the patient's symptoms was found 
on this exam. 

 
Brief Hospital Course:
A/P: Pt is ___ yo m with CAD s/p MI, s/p CABG, s/p stents, HTN, 
DM, h/o GIB, p/w intermittent chest pain and EtOH intoxication.
.
#) Chest pain: Pt with extensive cardaic history, so at 
high-risk for ischemic pain. Currently in ___ chest pain. His 
current chest pain is not exertional in nature but still high 
risk given his report that it migh be similar to prior chest 
pain when he required intervention. CTA r/o PE or disection. He 
also was noticed to have dinamic t wave changes on v1-v2. 
Heparin IV and plavix load were given. Cardiology was consulted. 
Given history of stopping aspirin and plavix 4 months ago, and 
description of similar symptoms with prior anginal episodes, 
there was concern for possible stent stenosis - patient was 
taken for elective cardiac catheterization. Cardiac cath showed 
patent stent.  Aspirin and plavix were continued. Imdur was 
added to his antianginal regimen. Patient always complaint of 
burning sensation mid chest associated with epigastriac 
abdominal pain. Given the negative cardiac work up, a GI 
evaluation was performed as below
.
# Abdominal pain: Patient also complained of abdominal pain, 
worse day after cardiac catheterization. His physical exam was 
always benign. IV morphine was used initially, but patient 
persitently ask for more pain medications given worsening pain. 
LFT's, amilase, lipase were normal. Pain medications were 
changed to Morphine PO standing dose obtaining improvement in 
pain control.

Given unexplained etiology of abdominal and chest discomfort and 
also to help in the decision of continuation of plavix and 
aspirin (given history of GI bleeding per patient report without 
clear work up) an upper endoscopy was obtained. It showed 
previous sub-total gastrectomy of the stomach and erythema at 
the anastomosis (biopsy). No other abnormalities were found.
.
By time of discharge patient pain was well control with morphine 
po, PPi and sucralfate.
.
#) DM: patient was monitor on insulin sliding scales.
.
#) h/o GIB: HCT remained stable during his admission. Guiac 
negative on admission. 
.
#) HTN: stable. Ace inhibitor and betablockers were continued.
.
#) Psych: at OSH, he had been on ___ for depression and 
EtOh abuse.  Patient  denied suicidal ideation here. he states 
that he would never consider killing himself despite the 
problems he has at home. Since he was transferred to ___ on 
___, psychiatric service was consulted.
No evidence of suicidal ideation was found and ___ was 
lifted. Recomendations were to continue with current psych meds 
and outpatient follow up.
.
# Anemia: microcitic anemia. Iron studies revealed normal values 
except for low ferritin. Reviewing past records, his hcts ___ 
___ has been int he mid 30's with low MCV. His reticulocite 
count corrected for his hct is in the low side and suggest low 
BM response. This in combination of low platelets and leukopenia 
may warrant further hematology work up.

#Leukopenia: Last WBC 3 on discharge. CBC should be checked on 
his next visit to check for stability.

 
Medications on Admission:
Sertralin 100 mg day
Doxepin 1 tab 100 ad day
Trazodone 100 mg qhs.
Aspirin 325 mg daily (not taking)
Tamsulosin 0.4 mg qhs
Atorvastatin 20 mg daily
Lisinopril 5 mg daily
Clonazepam 1 mg tid prn
Sucralfate 1 gram QID
Metoprolol Tartrate 50 mg bid
Pantoprazole 40 mg bid
Clopidogrel 75 mg daily (not taking)
Insulin Glargine 35U QH
 
Discharge Medications:
1. Sertraline 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*0*
2. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
3. Doxepin 25 mg Capsule Sig: Four (4) Capsule PO HS (at 
bedtime).  
4. Metoprolol Tartrate 50 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).
Disp:*60 Tablet(s)* Refills:*2*
5. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q12H (every 12 hours).
Disp:*60 Tablet, Delayed Release (E.C.)(s)* Refills:*2*
6. Atorvastatin 40 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).
Disp:*60 Tablet(s)* Refills:*2*
7. Tamsulosin 0.4 mg Capsule, Sust. Release 24 hr Sig: One (1) 
Capsule, Sust. Release 24 hr PO HS (at bedtime).
Disp:*30 Capsule, Sust. Release 24 hr(s)* Refills:*2*
8. Lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
9. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
10. Clonazepam 1 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours) as needed for anxiety. Tablet(s) 
11. Sucralfate 1 gram Tablet Sig: One (1) Tablet PO QID (4 times 
a day).
Disp:*120 Tablet(s)* Refills:*2*
12. Morphine 15 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for pain.
Disp:*50 Tablet(s)* Refills:*0*
13. Isosorbide Mononitrate 30 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).
Disp:*30 Tablet Sustained Release 24 hr(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Non cardiac chest pain.
Abdominal Pain.

 
Discharge Condition:
Good

 
Discharge Instructions:
You were admitted with chest pain. 
Your cardiac catheterization did not show any new abnormalities.
Your endoscopy only showed some mild inflammation. Otherwise was 
normal.
You should continue your aspirin and plavix until you talk to 
your cardiologist.
Please discuss with your PCP the need for further 
Gastrointestinal follow up to work up your prior GI bleeding and 
your abdominal pain.

If shortness of breath, chest pain, or worsening abdominal pain, 
call your PCP or come to the emergency department.

 
Followup Instructions:
___